US08008303B2
5′-Amino-2′methoxy-biphenyl-4-carboxylic acid ethyl ester hydrochloride
2′-Methoxy-5′-nitro-biphenyl-4-carboxylic acid ethyl ester (600 mg) in ethanol 90 ml) and 2M HCl (2.5 ml) was hydrogenated at RTP for 3 h. The mixture was then filtered through celite and the solvent evaporated. The dark solid residue was dissolved in 1:1 aqueous acetonitrile, filtered through celite again and evaporated giving the title compound as a red solid (595 mg).

reactant | 2′-Methoxy-5′-nitro-biphenyl-4-carboxylic acid ethyl ester | 600 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C16H15NO5
reactant | HCl | 2M, 2.5 ml | Cl | ClH
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 5′-Amino-2′methoxy-biphenyl-4-carboxylic acid ethyl ester hydrochloride | 595 mg | Cl.C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)OC | InChI=1S/C16H17NO3.ClH/c1-3-20-16(18)12-6-4-11(5-7-12)14-10-13(17)8-9-15(14)19-2;/h4-10H,3,17H2,1-2H3;1H
